US08809538B2
4-chloro-7-hydrazino-3-phenylisoxazolo[4,5-d]pyridazine
To 4,7-dichloro-3-phenylisoxazolo[4,5-d]pyridazine (25.5 g, Desimoni, G.; Et al. Tetrahedron 1967, 23, 681) in 1,4-dioxane (200 mL) and ethanol (50 mL) at 0° C. was added hydrazine (7.0 g) slowly. The reaction mixture was allowed to slowly warm to room temperature. After 20 hours, the reaction mixture was concentrated and the solid obtained was washed with water and filtered. The material was purified by column chromatography on silica gel (methanol:dichloromethane=5:95) to afford first the regioisomer of the title compound followed by the later eluting title compound (4.50 g) having the following physical data.

reactant | 4,7-dichloro-3-phenylisoxazolo[4,5-d]pyridazine | 25.5 g | ClC1=NN=C(C2=C1C(=NO2)C2=CC=CC=C2)Cl | C11H5Cl2N3O
reactant | hydrazine | 7.0 g | NN | H4N2
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-chloro-7-hydrazino-3-phenylisoxazolo[4,5-d]pyridazine | ClC1=NN=C(C2=C1C(=NO2)C2=CC=CC=C2)NN | C11H8ClN5O
